* Z:\home\mestrezen\Documents\graduacao\Per-odo-7-facul\TEORIA-COMUNICACOES\PROVAS\trabalho final\MOD-AM-DSB.asc
R1 N001 0 5k
R2 portadora N001 1k
R3 modulante N001 1k
D1 N001 MODULADO 1N4148
C1 MODULADO 0 50nF
L1 MODULADO 0 50µH
V1 portadora 0 SINE(0 5 100K)
V2 modulante 0 SINE(0m 1 1k)
C2 DEMODULADO 0 50nF
R4 DEMODULADO 0 636.61977
D2 MODULADO DEMODULADO 1N4148
B1 NC_01 0 V=V(portadora)*V(modulante)
.model D D
.lib C:\users\root\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m
* AM-DSB
.backanno
.end
